US06864390B2
[(1S,3R)-1-(Methoxycarbonylamino-methyl)-3-methyl-cyclopentyl]-acetic acid methyl ester (2.84 g, 11.7 mmol) was refluxed in a mixture of 1,4-dioxane (15 mL) and 6N Hydrochloric acid (30 mL) for 17 hours. The mixture was allowed to cool, diluted with water (200 mL), and washed with dichloromethane (2×100 mL). The aqueous layer was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate/methanol (95:5) to give 1.28 g (53%) of ((1S,3R)-1-aminomethyl-3-methyl-cyclopentyl)-acetic acid hydrochloride;

reactant | [(1S,3R)-1-(Methoxycarbonylamino-methyl)-3-methyl-cyclopentyl]-acetic acid methyl ester | 11.7 mmol, 2.84 g | COC(C[C@]1(C[C@@H](CC1)C)CNC(=O)OC)=O | C12H21NO4
reactant | Hydrochloric acid | 6N, 30 mL | Cl | ClH
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 200 mL | O | H2O
product | ((1S,3R)-1-aminomethyl-3-methyl-cyclopentyl)-acetic acid hydrochloride | 1.28 g, 53% | Cl.NC[C@@]1(C[C@@H](CC1)C)CC(=O)O | InChI=1S/C9H17NO2.ClH/c1-7-2-3-9(4-7,6-10)5-8(11)12;/h7H,2-6,10H2,1H3,(H,11,12);1H/t7-,9+;/m1./s1
